US08466199B2
The reaction of methyl 2-hydroxy-4-methoxy-benzoate and allyl bromide in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 2-Allyloxy-4-methoxy-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 12.18 (s, —CO2H); 7.70 (m, 1 arom. H); 6.58 (m, 2 arom. H); 6.01 (m, —CH═CH2); 5.51, 5.24 (2 d-like, CH═CH2); 4.62 (d-like, CH2—CH═CH2); 3.81 (s, OCH3). 13C-NMR (100 MHz, d6-DMSO): 166.45 (C═O); 163.45; 159.40; 133.25; 133.22; 116.91; 112.98; 105.37; 100.01; 68.63; 55.45.

reactant | methyl 2-hydroxy-4-methoxy-benzoate | OC1=C(C(=O)OC)C=CC(=C1)OC | C9H10O4
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2-Allyloxy-4-methoxy-benzoic acid | C(C=C)OC1=C(C(=O)O)C=CC(=C1)OC | C11H12O4
